US08420678B2
p-Octadecvlbenzenesulfonyl Chloride.
To a solution of 1-phenyloctadecane (0.84 g, 2.5 mmol) in CHCl3 (5 mL) was added chlorosulfonic acid (0.5 mL, 7.5 mmol) and the mixture was stirred at rt for 22 h. The mixture was poured on ice and extracted with CH2Cl2. The combined extracts were washed with water, a solution of NaHCO3, and water, dried (Na2SO4), and concentrated in vacuo. The residue was chromatographed on silica gel (70-230 mesh) with hexane/ethyl acetate (49:1) to give the product as a white solid (0.60 g, 1.4 mmol, 56%), mp 43-44° C.; 1H NMR (300 MHz, CDCl3) δ 0.86 (t, 3H, J=6.9 Hz), 1.25 (m, 30H), 1.65 (m, 2H), 2.72 (t, 2H, J=7.8 Hz), 7.42 (d, 2H, J=8.4 Hz), 7.93 (d, 2H, J=8.4 Hz); 13C NMR (75 MHz, CDCl3) 14.1, 22.7, 29.2, 29.4, 29.5, 29.7, 30.9, 31.9, 36.0, 127.1, 129.6, 141.8, 151.7.

reactant | 1-phenyloctadecane | 2.5 mmol, 0.84 g | C1(=CC=CC=C1)CCCCCCCCCCCCCCCCCC | C24H42
reactant | chlorosulfonic acid | 7.5 mmol, 0.5 mL | ClS(=O)(=O)O | ClHO3S
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | p-Octadecvlbenzenesulfonyl Chloride | 1.4 mmol, 0.60 g, 56% | C(CCCCCCCCCCCCCCCCC)C1=CC=C(C=C1)S(=O)(=O)Cl | C24H41ClO2S
